US07163952B2
(1) 1-(4-methoxycarbonylbenzyl)-2-thiourea
Under an argon atmosphere, to a suspension of methyl 4-aminomethylbenzoate hydrochloride (170.0 g, 0.843 mol) in chloroform (850 ml, 5.0 v/w) were successively added 1,1′-thiocarbonyldiimidazole (purity 90%, 166.0 g, 0.843 mol) and triethylamine (123 ml, 0.885 mol). After stirring at room temperature for 3 hr, 28% aqueous ammonia (570 ml, 8.43 mol) and methanol (170 ml, 1.0 v/w) were added and the mixture was stirred overnight. n-Hexane (1700 ml, 10.0 v/w) and water (850 ml, 5.0 v/w) were successively added to the reaction mixture and the mixture was stirred at room temperature for 3 hrs. The precipitated crystals were collected by filtration, washed successively with n-hexane (500 ml) and water (500 ml) and dried in vacuo to give the title compound (172.5 g, yield 91.3%) as a colorless solid.

reactant | methyl 4-aminomethylbenzoate hydrochloride | 0.843 mol, 170.0 g | Cl.NCC1=CC=C(C(=O)OC)C=C1
reactant | 1,1′-thiocarbonyldiimidazole | 0.843 mol, 166.0 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | triethylamine | 0.885 mol, 123 ml | C(C)N(CC)CC | C6H15N
reactant | ammonia | 8.43 mol, 570 ml | N | H3N
solvent | chloroform | 850 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 850 ml | O | H2O
solvent | n-Hexane | 1700 ml | CCCCCC | C6H14
solvent | methanol | 170 ml | CO | CH4O
product | 1-(4-methoxycarbonylbenzyl)-2-thiourea | 172.5 g, yield 91.3% | COC(=O)C1=CC=C(CNC(=S)N)C=C1 | C10H12N2O2S
